US08080566B1
A 250-mL 3-necked round-bottomed flask was charged with tert-butyl 3-cyanopiperidine-1-carboxylate (5.8 g, 27.07 mmol, 1.00 equiv, 98%) in 1,4-dioxane (60 mL). The mixture was cooled down to at 0° C. and treated with HCl (g). The mixture was stirred for 2 hours at 0° C. resulting in a precipitate that was collected by filtration to afford piperidine-3-carbonitrile hydrochloride as white solid (1.9 g, 48%).

reactant | tert-butyl 3-cyanopiperidine-1-carboxylate | 27.07 mmol, 5.8 g, 1.00 equiv | C(#N)C1CN(CCC1)C(=O)OC(C)(C)C | C11H18N2O2
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | piperidine-3-carbonitrile hydrochloride | 1.9 g, 48% | Cl.N1CC(CCC1)C#N | InChI=1S/C6H10N2.ClH/c7-4-6-2-1-3-8-5-6;/h6,8H,1-3,5H2;1H
